US07622583B2
A solution of crude 4-chloro-N-[5-chloro-2-(3-methyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide in 3 mL HCl (4M in dioxane) and water (1 mL) was refluxed for 2 h. Upon cooling to room temperature, the mixture was concentrated and the residue was purified via preparative TLC (50% EtOAc in hexane) to afford 11 mg of 4-chloro-N-[5-chloro-2-(3-methyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide as an off white solid. MS m/z: 546.1(M+H).

reactant | 4-chloro-N-[5-chloro-2-(3-methyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)N1C(COC2=C1C=CC=C2)C)C(F)(F)F | C24H20Cl2F3N3O5S
solvent | HCl | 4M, 3 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 4-chloro-N-[5-chloro-2-(3-methyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 11 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1C(COC2=C1C=CC=C2)C)C(F)(F)F | C22H16Cl2F3N3O4S
